US07569685B2
RNA synthesis program (condensation time: 10 min.) was carried out using anhydrous acetonitrile solution of 2′-O-cyanoethyluridine phosphoramidite unit (compound 7, 0.1M) by means of a DNA/RNA automatic synthesizer (Applied Bio System) provided with a long aminoalkyl chain CPG (1 μl) in which 2′-O-cyanoethyluridine was introduced via a succinyl linker by a conventional way (16 μl mol/g), which was filled into a socket for solid-phase synthesis. After the synthesis had been completed, the resulting oligonucleotide was excised from the solid phase by treatment with ammonia water (1 ml) for 20 min. After diluted appropriately with ammonium acetate buffer, the oligonucleotide was purified with a reverse phase column cartridge and an anion exchange HPLC. The oligonucleotide obtained by a desalting operation with the reverse phase column cartridge was lyophilized to give a titled compound with a yield of 21%. Analysis profile obtained in the anion exchange HPLC is shown in FIG. 1A.

reactant | 2′-O-cyanoethyluridine phosphoramidite | P(O)(N)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)OCCC#N)O | C12H17N4O7P
solvent | acetonitrile | C(C)#N | C2H3N
product | 2′-O-cyanoethyluridine | C(#N)CCO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C12H15N3O6
